US05302743
In 84.4 g of ethyl acetate 21.1 g (0.1 mole) of N-trifluoroacetyl-L-aspartic anhydride was suspended, and 9.2 g (0.11 mole) of sodium acetate was added at -5 - 0° C. with stirring, and 21.6 g (0.1 mole) of L-phenylalanine methyl ester hydrochloride was added at the same temperature. The mixture was reacted for 3 hours with stirring at the same temperature and concentrated under reduced pressure. Thereafter 63.3 g of acetic acid was added and stirred for an hour at 15°-20° C. Precipitated crystals were filtered, washed and dried. Crystals of N-trifluoroacetyl-α-L-aspartyl-L-phenylalanine methyl ester were obtained in a yield of 30.6 g (78.5% yield on L-phenylalanine methyl ester hydrochloride). The crystals obtained were analyzed by high performance liquid chromatography to give a ratio of α-isomer:β-isomer of 99.0:1.0.

reactant | ethyl acetate | 0.1 mole, 84.4 g | C(C)(=O)OCC | C4H8O2
reactant | N-trifluoroacetyl-L-aspartic anhydride | FC(C(=O)N[C@H]1CC(=O)OC1=O)(F)F | C6H4F3NO4
reactant | sodium acetate | 0.11 mole, 9.2 g | C(C)(=O)[O-].[Na+]
reactant | L-phenylalanine methyl ester hydrochloride | 0.1 mole, 21.6 g | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
product | N-trifluoroacetyl-α-L-aspartyl-L-phenylalanine methyl ester | 78.5% yield | COC([C@@H](NC([C@@H](NC(C(F)(F)F)=O)CC(O)=O)=O)CC1=CC=CC=C1)=O | C16H17F3N2O6
